US04649142
To a solution of 3,4-dihydro-6-(3-amino-4-methoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (0.39 g) in 1,2-dichloroethane (5 ml) were added methanesulfonyl chloride (0.40 ml) and triethylamine (0.52 ml) successively, and the mixture was refluxed for 2.5 hours. After cooling, the reaction mixture was dissolved in chloroform, and washed with water. The organic layer was dried over magnesium sulfate, evaporated, and crystallized from ethanol to give 3,4-dihydro-6-[3-(dimethanesulfonylamino)-4methoxyphenyl]-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2-(1H)-pyrimidinone (0.33 g).

reactant | 3,4-dihydro-6-(3-amino-4-methoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 0.39 g | NC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=C(C=C(C=C1C)C)C | C22H26N4O2
reactant | methanesulfonyl chloride | 0.40 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.52 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dihydro-6-[3-(dimethanesulfonylamino)-4methoxyphenyl]-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2-(1H)-pyrimidinone | 0.33 g | CS(=O)(=O)N(C=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C | C24H30N4O6S2
